### PR TITLE
feat: Formalize Erdős Problem 321

### LINKED ISSUE #486: Erdős Problem 321
### What is the conjecture
    
https://www.erdosproblems.com/321

  What is the size of the largest $A\subseteq \\{1,\ldots,N\\}$ such that all sums $\sum_{n\in S}\frac{1}{n}$ are distinct for $S\subseteq A$?

Status: open

### PR DESCRIPTION
**Pull request by junseokl**
Fixes #486.

My first PR! New to Lean and looking forward to contributing more. Feedback is welcome! :)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/321.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+      (_ : (fun (⟨S, _⟩ : A.powerset) ↦ ∑ n ∈ S, (1 : ℚ) / n).Injective) }
+    answer(sorry) := by
+  sorry
+
+-- Formalisation note: it's possible that solution to `erdos_321` needs to be
+-- expressed asymptotically. To handle this we include `IsTheta`, `IsBigO`
+-- and `IsLittleO` variants below. Since a solution is not known this necessitates
+-- the use of an `answer(sorry)` placeholder. Trivial or sub-optimal solutions
+-- will therefore exist to the asymptotic formalisations. A true solution to
+-- the asymptotic variants should have a degree of optimality or non-triviality to it.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
/-
Formalisation note: it's possible that solution to `erdos_321` needs to be
expressed asymptotically. To handle this we include `IsTheta`, `IsBigO`
and `IsLittleO` variants below. Since a solution is not known this necessitates
the use of an `answer(sorry)` placeholder. Trivial or sub-optimal solutions
will therefore exist to the asymptotic formalisations. A true solution to
the asymptotic variants should have a degree of optimality or non-triviality to it.
-/
```

File: FormalConjectures/ErdosProblems/321.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+
+namespace Erdos321
+
+/--
+What is the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums $\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$?
+-/
+@[category research open, AMS 11]
+theorem erdos_321 (N : ℕ) : IsGreatest
+    { #A | (A) (_ : A ⊆ Finset.Icc 1 N)
+      (_ : (fun (⟨S, _⟩ : A.powerset) ↦ ∑ n ∈ S, (1 : ℚ) / n).Injective) }
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/321.lean]: Here to avoid messing around with subtypes, I'd suggest using InjectiveOn

File: FormalConjectures/ErdosProblems/321.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+-- expressed asymptotically. To handle this we include `IsTheta`, `IsBigO`
+-- and `IsLittleO` variants below. Since a solution is not known this necessitates
+-- the use of an `answer(sorry)` placeholder. Trivial or sub-optimal solutions
+-- will therefore exist to the asymptotic formalisations. A true solution to
+-- the asymptotic variants should have a degree of optimality or non-triviality to it.
+
+/--
+Let $R(N)$ be the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums $\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$. What is $\Theta(R(N))$?
+-/
+@[category research open, AMS 5]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/321.lean]: I think number theory is also reasonable to have here (and same below)
```suggestion
@[category research open, AMS 5 11]
```

**Review by Paul-Lez — COMMENTED** [review]
A few superficial comments - will take another look later!

File: FormalConjectures/ErdosProblems/321.lean (hunk 2 above)
Comment (junseokl) [reply FormalConjectures/ErdosProblems/321.lean]:
```suggestion
      (_ : Set.InjOn (fun (S : Finset ℕ) ↦ ∑ n ∈ S, (1 : ℚ) / n) A.powerset) }
```

Would this work?

File: FormalConjectures/ErdosProblems/321.lean (hunk 3 above)
Comment (junseokl) [reply FormalConjectures/ErdosProblems/321.lean]: Yep, I've just replaced them (Was 5 still needed?)

File: FormalConjectures/ErdosProblems/321.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+-/
+
+open Filter Real
+
+open scoped Finset
+
+namespace Erdos321
+
+/--
+What is the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums $\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
What is the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums 
$\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$?
```

File: FormalConjectures/ErdosProblems/321.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+Formalisation note: it's possible that solution to `erdos_321` needs to be
+expressed asymptotically. To handle this we include `IsTheta`, `IsBigO`
+and `IsLittleO` variants below. Since a solution is not known this necessitates
+the use of an `answer(sorry)` placeholder. Trivial or sub-optimal solutions
+will therefore exist to the asymptotic formalisations. A true solution to
+the asymptotic variants should have a degree of optimality or non-triviality to it.
+-/
+
+/--
+Let $R(N)$ be the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums $\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$. What is $\Theta(R(N))$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
Let $R(N)$ be the size of the largest $A\subseteq\{1, ..., N\}$ such that all sums
$\sum_{n\in S} \frac{1}{n}$ are distinct for $S\subseteq A$. What is $\Theta(R(N))$?
```
Same for the other docstrings, let's keep a 100 char limit also for those.

**Review by mo271 — COMMENTED** [review]
In general I would recommend defining the $$R(N)$$ once at the beginning of the file as a `noncomputable` def using `iSup` or `sSup`. Then this can be re-used in many places.  See for instance https://github.com/google-deepmind/formal-conjectures/pull/622/files or similar pattern in other files. 
This way we need to repeat that definition for each asymptotic estimate.

File: FormalConjectures/ErdosProblems/321.lean [hunk 6]
```diff
@@ -0,0 +1,112 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_321.variants.isLittleO :
+    (fun N ↦ (R N : ℝ)) =o[atTop] (answer(sorry) : ℕ → ℝ) := by
+  sorry
+
+/--
+Let $R(N)$ be the maximal such size. Results of Bleicher and Erdős from [BlEr75] and [BlEr76b] imply that
+$$
+\frac{N}{\log N} \prod_{i=3}^{k} \log_i N \le R(N) \le \frac{1}{\log 2} \log_r N \left( \frac{N}{\log N} \prod_{i=3}^{r} \log_i N \right),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
\frac{N}{\log N} \prod_{i=3}^{k} \log_i N \le R(N),
```

File: FormalConjectures/ErdosProblems/321.lean [hunk 7]
```diff
@@ -0,0 +1,112 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_321.variants.lower (N k : ℕ) (hk : 4 ≤ k ∧ k ≤ log^[k] N) :
+  N / log N * ∏ i ∈ Finset.Icc 3 k, (log^[i] N) ≤ R N := by
+  sorry
+
+/--
+Let $R(N)$ be the maximal such size. Results of Bleicher and Erdős from [BlEr75] and [BlEr76b] imply that
+$$
+\frac{N}{\log N} \prod_{i=3}^{k} \log_i N \le R(N) \le \frac{1}{\log 2} \log_r N \left( \frac{N}{\log N} \prod_{i=3}^{r} \log_i N \right),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
R(N) \le \frac{1}{\log 2} \log_r N \left( \frac{N}{\log N} \prod_{i=3}^{r} \log_i N \right),
```

File: FormalConjectures/ErdosProblems/321.lean [hunk 8]
```diff
@@ -0,0 +1,112 @@
...
+$$
+valid for any $k \ge 4$ with $\log_k N \ge k$ and any $r \ge 1$ with $\log_{2r} N \ge 1$. (In these bounds $\log_i n$ denotes the $i$-fold iterated logarithm.)
+
+[BlEr75] Bleicher, M. N. and Erdős, P., _The number of distinct subsums of $\sum \sb{1}\spN\,1/i$_. Math. Comp. (1975), 29-42.
+[BlEr76b] Bleicher, Michael N. and Erdős, Paul, _Denominators of Egyptian fractions. II_. Illinois J. Math. (1976), 598-613.
+-/
+@[category research solved, AMS 11]
+theorem erdos_321.variants.upper (N r : ℕ) (hr : 1 ≤ log^[2 * r] N) :
+  R N ≤ 1 / log 2 * log^[r] N * N / log N * ∏ i ∈ Finset.Icc 3 r, (log^[i] N) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
theorem erdos_321.variants.upper (N r : ℕ) (hr : 1 ≤ r) (hrN : 1 ≤ log^[2 * r] N) :
    R N ≤ 1 / log 2 * log^[r] N * N / log N * ∏ i ∈ Finset.Icc 3 r, (log^[i] N) := by
```
indentation and missing hypothesis.

File: FormalConjectures/ErdosProblems/321.lean [hunk 9]
```diff
@@ -0,0 +1,112 @@
...
+\frac{N}{\log N} \prod_{i=3}^{k} \log_i N \le R(N) \le \frac{1}{\log 2} \log_r N \left( \frac{N}{\log N} \prod_{i=3}^{r} \log_i N \right),
+$$
+valid for any $k \ge 4$ with $\log_k N \ge k$ and any $r \ge 1$ with $\log_{2r} N \ge 1$. (In these bounds $\log_i n$ denotes the $i$-fold iterated logarithm.)
+
+[BlEr75] Bleicher, M. N. and Erdős, P., _The number of distinct subsums of $\sum \sb{1}\spN\,1/i$_. Math. Comp. (1975), 29-42.
+[BlEr76b] Bleicher, Michael N. and Erdős, Paul, _Denominators of Egyptian fractions. II_. Illinois J. Math. (1976), 598-613.
+-/
+@[category research solved, AMS 11]
+theorem erdos_321.variants.lower (N k : ℕ) (hk : 4 ≤ k ∧ k ≤ log^[k] N) :
+  N / log N * ∏ i ∈ Finset.Icc 3 k, (log^[i] N) ≤ R N := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/321.lean]:
```suggestion
theorem erdos_321.variants.lower (N k : ℕ) (hk : 4 ≤ k) (hkN : k ≤ log^[k] N) :
    N / log N * ∏ i ∈ Finset.Icc 3 k, (log^[i] N) ≤ R N := by
```
indentation and splitting up a hypothesis (this is a nitpick, but splitting up `hk` like this makes it easier to use)

**Review by callesonne — APPROVED** [review]
Thanks a lot for the contribution, this is great! Just added some formatting comments and one where I think a hypothesis has been missed.
